US05314880
A stirred suspension of crude potassium 4-(1H-benzimidazylmethyl)benzoate (0.49 g, 1.7 mmol) in dry DMF (10 ml) under argon was treated with cyclohexylamine (0.2 g, 2.0 mmol) and triethylamine (0.34 g, 3.4 mmol). The solution was cooled to -5° C. and DPPA (0.53 g, 1.9 mmol) in DMF (10 ml) was added. The solution was allowed to warm to room temperature, stirred overnight and concentrated to give the crude product. Chromatography (silica gel, ethyl acetate) followed by crystallisation from toluene gave N-cyclohexyl 4-(1H-benzimidazylmethyl)benzamide (91 mg, 16%) as a white crystalline solid.

reactant | potassium 4-(1H-benzimidazylmethyl)benzoate | 1.7 mmol, 0.49 g | N1(C=NC2=C1C=CC=C2)CC2=CC=C(C(=O)[O-])C=C2.[K+]
reactant | cyclohexylamine | 2.0 mmol, 0.2 g | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 3.4 mmol, 0.34 g | C(C)N(CC)CC | C6H15N
reactant | DPPA | 1.9 mmol, 0.53 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-cyclohexyl 4-(1H-benzimidazylmethyl)benzamide | 91 mg, 16% | C1(CCCCC1)NC(C1=CC=C(C=C1)CN1C=NC2=C1C=CC=C2)=O | C21H23N3O
